US07271197B2
iv) 2-(4-{2-[(3-Cyanobenzyl)oxy]ethoxy}phenyl)ethyl methanesulfonate
To a solution of 3-({2-[4-(2-hydroxyethyl)phenoxy]ethoxy}methyl)benzonitrile (5.04 g) and diisopropylethylamine (5.94 ml) in dichloromethane (50 ml) at 0° C. was added methanesulphonyl chloride (1.58 ml) dropwise and the mixture allowed to stir for 2 h. The resultant mixture was partitioned between dichloromethane and saturated sodium hydrogen carbonate. The organic phase was dried (MgSO4) and concentrated in vacuo to give the title compound (6.02 g). LCMS RT=3.22 min.

reactant | 3-({2-[4-(2-hydroxyethyl)phenoxy]ethoxy}methyl)benzonitrile | 5.04 g | OCCC1=CC=C(OCCOCC=2C=C(C#N)C=CC2)C=C1 | C18H19NO3
reactant | diisopropylethylamine | 5.94 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulphonyl chloride | 1.58 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-(4-{2-[(3-Cyanobenzyl)oxy]ethoxy}phenyl)ethyl methanesulfonate | 6.02 g | CS(=O)(=O)OCCC1=CC=C(C=C1)OCCOCC1=CC(=CC=C1)C#N | C19H21NO5S
